US07129238B2
In analogy to example 16.4, (RS)-N-(4-cyano-2-hydroxy-benzyl)-2-(2,6-difluoro-4-methoxy-phenyl)-2-methoxy-acetamide was alkylated with 2-chloro-N-methylacetamide/cesium carbonate in DMF to give (RS)-N-(4-cyano-2-methylcarbamoylmethoxy-benzyl)-2-(2,6-difluoro-4-methoxy-phenyl)-2-methoxy-acetamide as a colorless foam. MS 434.2 ([M+H]+)

reactant | (RS)-N-(4-cyano-2-hydroxy-benzyl)-2-(2,6-difluoro-4-methoxy-phenyl)-2-methoxy-acetamide | C(#N)C1=CC(=C(CNC(C(OC)C2=C(C=C(C=C2F)OC)F)=O)C=C1)O | C18H16F2N2O4
reactant | 2-chloro-N-methylacetamide cesium carbonate | ClCC(=O)NC.C([O-])([O-])=O.[Cs+].[Cs+]
solvent | DMF | CN(C)C=O | C3H7NO
product | (RS)-N-(4-cyano-2-methylcarbamoylmethoxy-benzyl)-2-(2,6-difluoro-4-methoxy-phenyl)-2-methoxy-acetamide | C(#N)C1=CC(=C(CNC(C(OC)C2=C(C=C(C=C2F)OC)F)=O)C=C1)OCC(NC)=O | C21H21F2N3O5
